6
C0100 1 0 1E-9
C0203 2 3 1E-9
$0104 1 4 5 0 5E-4 0 2.5
$0301 3 1 6 0 5E-4 0 2.5
O0200 2 0 3 0
V0500 5 0 PULSE 0 5 0 0.01E-3 0.01E-3 0.03E-3 0.1E-3 10000
V0600 6 0 PULSE 0 5 0.05E-3 0.01E-3 0.01E-3 0.03E-3 0.1E-3 10000
V0400 4 0 SIN 0 1 1000 0 0 0 1000
.TRAN 0.0006 5E-6 ADMO3 1 UIC
